US07320995B2
1-(4-methoxybenzyl)-4-phenylimidazole
To a solution of 4-phenylimidazole (7.49 g, 51.9 mmol) in DMF (30 mL) cooled to 0° C. under nitrogen add portionwise NaH (95%, 2.56 g, 101 mmol). After 10 minutes, add p-methoxybenzyl chloride (PMBCl) (7.50 mL, 55.3 mmol) dropwise. Stir for 5 hours, quench with MeOH (5 mL), dilute with water (100 mL), and extract with CH2Cl2 (2×100 mL). Dry the combined organic layers (Na2SO4) and concentrate in vacuo to a volume of 80 mL, affording 12.2 g (89% yield) after crystallization. MS(ES+): m/z=265 (M+H)+

reactant | 4-phenylimidazole | 51.9 mmol, 7.49 g | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
reactant | NaH | 101 mmol, 2.56 g | [H-].[Na+]
reactant | p-methoxybenzyl chloride | 55.3 mmol, 7.50 mL | COC1=CC=C(CCl)C=C1 | C8H9ClO
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(4-methoxybenzyl)-4-phenylimidazole | 89% yield | COC1=CC=C(CN2C=NC(=C2)C2=CC=CC=C2)C=C1 | C17H16N2O
